US04279992
A mixture of 24 g of potassium hydroxide, 80 ml of water, 240 ml of methanol, and 20 g (0.035 mol) of ethyl 7-β-galactosylcoumarin-3-carboxylate [Burd et al, Clin. Chem 23:1402(1977)] was stirred at 50° C. for 15 hours. When cool, the methanol was removed under reduced pressure. The concentrated aqueous solution was acidified to pH 2.0 with concentrated hydrochloric acid. The white precipitate was collected, washed with cold water, and recrystallized from hot water. The crystals were collected, washed with acetone, and dried at 80° C. for 1 hour. This gave 12 g (54% yield) of 7-β-galactosylcoumarin-3-carboxylic acid as white crystals, mp 250°-255° C.

reactant | potassium hydroxide | 24 g | [OH-].[K+]
reactant | water | 80 ml | O | H2O
reactant | ethyl 7-β-galactosylcoumarin-3-carboxylate | 0.035 mol, 20 g | [C@@H]1([C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)C1=CC=C2C=C(C(OC2=C1)=O)C(=O)OCC | C18H20O9
solvent | methanol | 240 ml | CO | CH4O
product | 7-β-galactosylcoumarin-3-carboxylic acid | 12 g, 54% yield | [C@@H]1([C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)C1=CC=C2C=C(C(OC2=C1)=O)C(=O)O | C16H16O9
